US06949553B2
KCN (886 mg, 13.6 mmols), NaCN (666 mg, 13.6 mmols) and 18-crown-6 (207 mg, 1.02 mmols) were added to a CH3CN (25 ml) solution of the (5S)-5-(bromomethyl)-1-methylpyrrolidin-2-one (1.31 g, 6.8 mmols), and the mixture was heated for 43 hours under reflux. The inorganic matter was filtered off, and the filtrate was diluted with AcOEt (50 ml). The dilution was washed with a saturated solution (30 ml) of NaCl, and dried over MgSO4. The solvent was distilled off under reduced pressure, and then the residue was subjected to silica gel column chromatography (SiO2 50 g, MeOH—CHCl3 1:9 v/v) to obtain 2-((2S)-1-methyl-5-oxopyrrolidin-2-yl)ethanenitrile as a mixture (1.05 g) with impurities difficult to separate: IR νmax (film) cm−1: 2246, 1685. 1H-NMR (CDCl3)δ: 3.85-3.76 (1H, m), 2.88 (3H, s), 2.68 (1H, dd, J=17.0, 4.4 Hz), 2.61 (1H, dd, J=17.0, 6.0 Hz), 2.62-2.48 (1H, m), 2.46-2.30 (2H, m), 2.00-1.86 (1H, m). MS m/z: 138 (M+), 98 (100%). HRMS: Calcd. for C7H10N2O: 138.0793 (M+). Found: 138.0794 (M+).

reactant | KCN | 13.6 mmols, 886 mg | [C-]#N.[K+]
reactant | NaCN | 13.6 mmols, 666 mg | [C-]#N.[Na+]
reactant | 18-crown-6 | 1.02 mmols, 207 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | (5S)-5-(bromomethyl)-1-methylpyrrolidin-2-one | 6.8 mmols, 1.31 g | BrC[C@@H]1CCC(N1C)=O | C6H10BrNO
solvent | CH3CN | 25 ml | CC#N | C2H3N
product | 2-((2S)-1-methyl-5-oxopyrrolidin-2-yl)ethanenitrile | CN1[C@@H](CCC1=O)CC#N | C7H10N2O
